US08314138B2
Synthesis of 2-{6-[(4-methoxy-benzyl)-methyl-amino]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide
Following the procedure described in Example 14, making variations as required to replace 4-fluoro-N-methyl-benzylamine with (4-methoxy-benzyl)-methyl-amine to react with 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid 4-fluoro benzylamide, the title compound was obtained in 72% yield. 1H NMR (400 MHz, CD2Cl2) δ 8.55 (s, 1H), 8.06 (s, 1H), 7.29-7.37 (m, 2H), 7.17-7.24 (m, 2H), 6.99-7.07 (m, 2H), 6.80-6.87 (m, 2H), 6.20 (bs, 1H), 4.75 (s, 2H), 4.53 (d, J=4.0 Hz, 2H), 3.74 (s, 3H), 3.11 (s, 3H), 2.70 (s, 3H); MS (ES+) m/z 478.2 (M+1), Rt=1.58 min.

reactant | 4-fluoro-N-methyl-benzylamine | FC1=CC=C(CNC)C=C1 | C8H10FN
reactant | (4-methoxy-benzyl)-methyl-amine | COC1=CC=C(CNC)C=C1 | C9H13NO
reactant | 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid 4-fluoro benzylamide | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NC(=CN=C2)I)C)C=C1 | C16H12FIN4OS
product | 2-{6-[(4-methoxy-benzyl)-methyl-amino]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 72% yield | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NC(=CN=C2)N(C)CC2=CC=C(C=C2)OC)C)C=C1 | C25H24FN5O2S
